US08030498B2
Preparation of 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (Compound No. 209 as Described Hereinafter)
The crude 5-hydroxy-1-methylpyrazol-4-yl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone obtained in the above step (3) was dissolved in anhydrous THF (10 mL), and triethylamine (250 mg) and, 96% S-ethyl chlorothiolformate (200 mg) were added, followed by stirring for 1 hour at room temperature. Ethyl acetate (200 mL) was added to the obtained reaction mixture, and the mixture was washed twice with a saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain the desired product (150 mg).

reactant | 5-hydroxy-1-methylpyrazol-4-yl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | COC(COC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)C)C)OC | C17H22N2O7S
reactant | triethylamine | 250 mg | C(C)N(CC)CC | C6H15N
reactant | S-ethyl chlorothiolformate | 200 mg | CCSC(=O)Cl | C3H5ClOS
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | 150 mg | COC(COC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1OC(=O)SCC)C)C)OC | C20H26N2O8S2
